US08729263B2
In a 50 mL round bottom flask was combined tert-butyl 4-isopropoxy-3-methoxyphenethylcarbamate (810 mg, 2.62 mmol) and HCl (4M in 1,4-dioxane) (6.5 mL, 26.2 mmol). The suspension was stirred at RT for two hours then concentrated in vacuo to afford 2-(4-isopropoxy-3-methoxyphenyl)ethanamine hydrochloride (643 mg) MS [M+H+]=210.3.

reactant | tert-butyl 4-isopropoxy-3-methoxyphenethylcarbamate | 2.62 mmol, 810 mg | C(C)(C)OC1=C(C=C(CCNC(OC(C)(C)C)=O)C=C1)OC | C17H27NO4
reactant | HCl | 26.2 mmol, 4M, 6.5 mL | Cl | ClH
product | 2-(4-isopropoxy-3-methoxyphenyl)ethanamine hydrochloride | 643 mg | Cl.C(C)(C)OC1=C(C=C(C=C1)CCN)OC | InChI=1S/C12H19NO2.ClH/c1-9(2)15-11-5-4-10(6-7-13)8-12(11)14-3;/h4-5,8-9H,6-7,13H2,1-3H3;1H
